US06900210B2
Step B: (S)-1-[3-(Pyrazin-2-yloxy)-phenyl]-ethylamine
A mixture of (S)-{1-[3-(pyrazin-2-yloxy)-phenyl]-ethyl}-carbamic acid tert-butyl ester (1.33 g, 4.2 mmol), dioxane (20 mL) and HCl (4.2 mL, 4N) was stirred at 50° C. for 5 h and concentrated in vacuo. CH2Cl2 (50 mL) was added and the reaction mixture was basified with NaOH (5N) followed by extraction with CH2Cl2 (2×50 mL). The organic layer was washed with brine (50 mL), dried over anhydrous magnesium sulfate and filtered, and the filtrate was concentrated to give the title compound (0.77 g, 85% yield).

reactant | (S)-{1-[3-(pyrazin-2-yloxy)-phenyl]-ethyl}-carbamic acid tert-butyl ester | 4.2 mmol, 1.33 g | C(C)(C)(C)OC(N[C@@H](C)C1=CC(=CC=C1)OC1=NC=CN=C1)=O | C17H21N3O3
reactant | HCl | 4N, 4.2 mL | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (S)-1-[3-(Pyrazin-2-yloxy)-phenyl]-ethylamine | 0.77 g, 85% yield | N1=C(C=NC=C1)OC=1C=C(C=CC1)[C@H](C)N | C12H13N3O
